US07465730B2
To a solution of (5-ethoxy-2-nitro-phenyl)-methane (592 mg, 3.0 mmol) in absolute EtOH (20 mL) at rt was added 150 mg of Pd/C (Aldrich, 10 wt. % on activated carbon), followed by slow addition of hydrazine hydrate (1.5 mL). The resulting reaction mixture was refluxed at 90° C. for 1h. It then cooled to rt, filtered through Celite, and then concentrated in vacuo to afford crude (2-amino-5-ethoxy-phenyl)-methanol as a pale yellow oil: MS (ESI) 168 (M+H)+.

reactant | (5-ethoxy-2-nitro-phenyl)-methane | 3.0 mmol, 592 mg | C(C)OC=1C=CC(=C(C1)C)[N+](=O)[O-] | C9H11NO3
reactant | hydrazine hydrate | 1.5 mL | O.NN
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (2-amino-5-ethoxy-phenyl)-methanol | NC1=C(C=C(C=C1)OCC)CO | C9H13NO2
